US06846832B2
f) 3-(Diphenyl-phosphinoyl)-6-methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one
To a cooled solution (−78° C.) of 2,2,6,6-tetramethylpiperidine (5.7 g, 40.3 mmol) in THF (60 mL) BuLi (25 mL, 1.6 M in hexanes, 40.3 mmol) was added. To the resulting mixture a solution of N-(diphenyl-phosphinoylmethyl)-2-fluoro-5-methoxy-N-(4-methoxy-benzyl)-benzamide (9.2 g, 18.3 mmol) in THF (55 mL) was added at such a rate to maintain the temperature below −70° C. and maintained at this temperature for 30 min. The reaction mixture was then allowed to warm up to RT over 5 h, and diluted with ammonium chloride (200 mL). The product was then extracted with diethyl ether and the combined extracts washed with brine. The residue was then evaporated and purified by chromatography (SiO2, Hexane:Acetone 1:1) to afford the title product (3.6 g, 41%) as a light yellow solid. MS m/e=484.3 (M+H+).

reactant | 2,2,6,6-tetramethylpiperidine | 40.3 mmol, 5.7 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | N-(diphenyl-phosphinoylmethyl)-2-fluoro-5-methoxy-N-(4-methoxy-benzyl)-benzamide | 18.3 mmol, 9.2 g | C1(=CC=CC=C1)C(N(C(C1=C(C=CC(=C1)OC)F)=O)CC1=CC=C(C=C1)OC)([PH2]=O)C1=CC=CC=C1 | C29H27FNO4P
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 40.3 mmol, 1.6 M, 60 mL | C1CCOC1 | C4H8O
product | 3-(Diphenyl-phosphinoyl)-6-methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one | 3.6 g, 41% | C1(=CC=CC=C1)P(=O)(C1N(C(C2=CC(=CC=C12)OC)=O)CC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C29H26NO4P
